US07345180B2
4-Methoxy-2-trifluoromethylbenzothiazole-6-carboxylic acid
4-Amino-3-mercapto-5-methoxybenzoic acid (400 mg) was dissolved in tetrahydrofuran (15 ml) and cooled to −78° C. Trifluoroacetic anhydride (0.31 ml) was added thereto, and the mixture was warmed over 30 minutes to room temperature and stirred for 30 minutes. The reaction mixture was concentrated under reduced pressure to give the title compound (550 mg, Y.:99%) as white crystals.

reactant | 4-Amino-3-mercapto-5-methoxybenzoic acid | 400 mg | NC1=C(C=C(C(=O)O)C=C1OC)S | C8H9NO3S
reactant | Trifluoroacetic anhydride | 0.31 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-Methoxy-2-trifluoromethylbenzothiazole-6-carboxylic acid | 550 mg, 99% | COC1=CC(=CC2=C1N=C(S2)C(F)(F)F)C(=O)O | C10H6F3NO3S
